US06946467B2
To a stirred solution of (R)-(+)-3-pyrrolidinol (2 g, 22.96 mmol) in tetrahydrofuran (60 mL) and water (30 mL) was added di-tert-butyl dicarbonate (5.27 g, 24.15 mmol) and 3 N sodium hydroxide (16 mL), and the resulting solution was stirred for 6 h. Another portion of di-tert-butyl dicarbonate (0.74 g, 0.34 mmol) was added and the solution was stirred overnight. The reaction was diluted with water (40 mL) and extracted with ethyl acetate (2×150 mL). The combined organic extracts were washed with 2 N potassium hydrogen sulfate (200 mL), saturated sodium bicarbonate (2×150 mL), brine (150 mL) and dried over magnesium sulfate. Removal of solvent in vacuo gave (R)-(+)-1-Boc-3-pyrrolidinol (4.21 g, 98%) as a yellow oil.

reactant | (R)-(+)-3-pyrrolidinol | 22.96 mmol, 2 g | N1C[C@@H](CC1)O | C4H9NO
reactant | di-tert-butyl dicarbonate | 24.15 mmol, 5.27 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 3 N, 16 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 0.34 mmol, 0.74 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
solvent | water | 40 mL | O | H2O
product | (R)-(+)-1-Boc-3-pyrrolidinol | 4.21 g, 98% | C(=O)(OC(C)(C)C)N1C[C@@H](CC1)O | C9H17NO3
